### PR TITLE
[stdlib] Arith: deprecate files mentioned as (mostly) obsolete

### PR DESCRIPTION
**Pull request by olaure01**
This PR follows the discussion in #11356 with the restricted goal of making `stdlib` independent from some obsolete files. Using these files should now generate deprecation warnings, so that one could consider removing them in the future.
The files considered so far are:
- `Arith.Le`
- `Arith.Lt`
- `Arith.Plus`
- `Arith.Gt`
- `Arith.Minus`
- `Arith.Mult`
- `Arith.Min`
- `Arith.Max`
- `Arith.Even`
- `Arith.Div2`
- `NPeano`

Hint declarations from the deprecated files are moved to a new (temporary) file `Arith.Arith_prebase`. Everything is not 100% conservative but requiring `Arith.Arith_base` instead of the `Arith._` files above should have minor impact only.
`stdlib` is made independent from the files listed above. Making the deprecated files disappear should then allow to merge `Arith.Arith_prebase` and `Arith.Arith_base` without any impact.

- [X] Added / updated **test-suite**.
- [x] Added **changelog**.
- [X] Added / updated **documentation**.
- [x] Opened **overlay** pull requests.
  - mit-plv/cross-crypto#25

<!-- Pointers to relevant developer documentation:

Contributing guide: https://github.com/coq/coq/blob/master/CONTRIBUTING.md

Test-suite: https://github.com/coq/coq/blob/master/test-suite/README.md

Changelog: https://github.com/coq/coq/blob/master/doc/changelog/README.md

Building the doc: https://github.com/coq/coq/blob/master/doc/README.md
Sphinx: https://github.com/coq/coq/blob/master/doc/sphinx/README.rst
doc_gram: https://github.com/coq/coq/blob/master/doc/tools/docgram/README.md

Overlays: https://github.com/coq/coq/blob/master/dev/ci/user-overlays/README.md

### CODE REVIEW

**Comment by maximedenes** [comment]
Thanks for the contribution! I feel like some of these changes my need to be re-assessed. For example, `proj2 (Nat.succ_lt_mono _ _)` does not exactly seem like an improvement over `lt_S_n` to me.

**Comment by olaure01** [comment]
> I feel like some of these changes my need to be re-assessed. For example, `proj2 (Nat.succ_lt_mono _ _)` does not exactly seem like an improvement over `lt_S_n` to me.

I see 3 points here:
* **naming:** is `lt_S_n` a better name than `succ_lt_mono`/`Nat.succ_lt_mono`? or at least should we look for something uniform?
* **equivalences:** many statements in `Nat` are given as equivalences. Often `apply -> _` or `apply <- _` allows to use the underlying implications but sometimes we have to rely on projections. Should we define statements corresponding to the underlying implications and if so where? in `PeanoNat.Nat`? in `PeanoNat`? in an `Arith_*` file extending `PeanoNat`?(but if it is the case it should be done in a systematic way). More generally, the deprecated files (but also `Reals.ArithProp` for example) contain such one-sided implication statements as well as additional properties about `nat`, how should they be organized?
* **entry points:** currently one can find, in `stdlib` and other developments, arbitrary choices for importing results about `nat` (through for example `PeanoNat` or `Arith_base` or `Arith` or `Lt` or `Max` or `Div2` or `Compare_dec`, etc.). Some of these files are mentioned to be obsolete or mostly obsolete. The key question is what should a user import to get access to results about `nat` in `stdlib`?

**Comment by maximedenes** [comment]
My point was simply that it's probably better to stabilize and document answers to these questions before propagating the changes.

**Comment by olaure01** [comment]
> My point was simply that it's probably better to stabilize and document answers to these questions before propagating the changes.

This is the reason why I made this a Draft PR. Main goals are: testing CI and waiting for comments (after the first round of #11356).

**Comment by olaure01** [comment]
Almost everything now works on CI.
I am stuck with the 3 remaining failures:
* `cross_crypto` seems to run out of memory
* concerning `aac_tactics` and `elpi`, could it be that deprecation warnings lead to compilation errors?

The use of statements from obsolete files should now generate deprecation warnings. As stated by @maximedenes, this requires to address the question of which, where and under what names should such statements from deprecated files be integrated in `stdlib` (mostly when they are not already present in `PeanoNat.Nat`)?

**Comment by Zimmi48** [comment]
>concerning `aac_tactics` and `elpi`, could it be that deprecation warnings lead to compilation errors?

Absolutely

**Comment by Zimmi48** [comment]
@olaure01 Rebasing this was pretty trivial, so I did it for the sake of the bot not closing this important work. Feel free to request help from the maintainers of the projects that trigger deprecation warnings (aac-tactics: @palmskog, coq-elpi: @gares) to get them fixed.

**Comment by palmskog** [comment]
@olaure01 we have set up aac-tactics deliberately to trigger errors on warnings. Can you give the high-level breakdown of what I can do to fix the project, either here or by submitting a [pull request](https://github.com/coq-community/aac-tactics)?

**Comment by Alizter** [comment]
@palmskog Anything using `Arith` should now use the corresponding lemma in `Nat`. For example, in this case `Arith.plus_assoc` needs to be `Nat.add_assoc`. I'm not sure what the best way is to go about doing this.

**Comment by Alizter** [comment]
I prepared an overlay for aac-tactics https://github.com/coq-community/aac-tactics/pull/99

**Comment by Alizter** [comment]
@coqbot ci minimize ci-cross_crypto

**Comment by Alizter** [comment]
I've started the minimization since it looks like there is a missing instance somewhere. Let's see what we get.

**Comment by Alizter** [comment]
@JasonGross @Zimmi48 Why isn't the minimizer going far enough?

**Review by Alizter — APPROVED** [review]
What I've managed to read looks pretty reasonable. Hopefully the minimizer can find out what is going wrong with cross-crypto. Also @olaure01 if you push again, aac-tactics should be fixed.

**Review by Alizter — CHANGES_REQUESTED** [review]
A changelog summarising the deprecation would be nice however.

**Comment by JasonGross** [comment]
I think the issue is that there's a `Require` that occurs after the buggy line.  Let me try to fix this.

**Comment by JasonGross** [comment]
In the meantime, let's try this
@coqbot resume ci minimize ci-cross_crypto
```coq
(* Copyright 2012-2015 by Adam Petcher.				*
 * Use of this source code is governed by the license described	*
 * in the LICENSE file at the root of the source tree.		*)

Declare ML Module "ltac_plugin".
Module Export AdmitTactic.
Module Import LocalFalse.
Inductive False : Prop := .
End LocalFalse.
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
End AdmitTactic.
Require Coq.Bool.Bvector.
Require Coq.Lists.List.
Require Coq.Arith.Arith.
Require Coq.micromega.Lia.
Require Coq.Arith.Div2.
Require Coq.Numbers.Natural.Peano.NPeano.
Require Coq.NArith.BinNat.
Require FCF.StdNat.
Require FCF.EqDec.
Require Coq.Setoids.Setoid.
Require Coq.Classes.RelationClasses.
Require Coq.Classes.Morphisms.
Require FCF.Rat.
Require Coq.Sorting.Permutation.
Require Coq.Bool.Bool.
Require FCF.Fold.
Require Coq.NArith.Ndigits.
Require Coq.ZArith.ZArith.
Require FCF.Blist.
Require FCF.Comp.
Require FCF.NotationV1.
Require FCF.DistSem.
Require FCF.DetSem.
Require FCF.Limit.
Require FCF.SemEquiv.
Require FCF.DistRules.
Require FCF.DistTacs.
Require FCF.Crypto.
Require FCF.RndNat.
Require FCF.Bernoulli.
Require FCF.ProgramLogic.
Require FCF.ProgTacs.
Require FCF.GenTacs.
Require FCF.Tactics.
Require FCF.FCF.

Set Implicit Arguments.
Import FCF.FCF.

Local Open Scope nat_scope.

Theorem qam_count_gen : 
  forall (A B C : Set)(c : OracleComp A B C)(q : nat),
    queries_at_most c q ->
    forall (S : Set)(count : S -> nat)(eqds : EqDec S)(o : S -> A -> Comp (B * S))(s : S)(n : nat),
      (forall a b x y,
        In (a, b) (getSupport (o x y)) ->
          count b <= n + (count x)) ->
      forall a b, 
      In (a, b) (getSupport (c _ _ o s)) ->
      count b <= q * n + (count s).
    
  Opaque getSupport.
  induction 1; intuition; simpl in *.

  (* Bind case *)
  repeat simp_in_support.
  destruct x.
  rewrite mult_plus_distr_r.
  pose proof H4.
  eapply (IHqueries_at_most _ count) in H4.
  eapply (H1 _ _ S count) in H5.
  rewrite H5.
  rewrite plus_comm.
  rewrite <- (plus_assoc).
  rewrite (plus_comm (q2 * n)).
  rewrite plus_assoc.
  eapply plus_le_compat.
  eauto.
  eapply le_refl.
  intuition.
  intuition.

  (* query case *)
  rewrite plus_0_r.
  eapply H; eauto.

  (* ret case *)
  Transparent getSupport.
  repeat simp_in_support.
  intuition.

  (* run case *)
  repeat simp_in_support.

  destruct x.
  simpl in *.

  specialize (IHqueries_at_most (S * S0)%type (fun p =>  count (snd p)) _ 
  (fun (x : S * S0) (y : A) =>
                p <-$ (oc (fst x) y) S0 eqds0 o (snd x);
                ret (fst (fst p), (snd (fst p), snd p)))
  (s, s0) (q2 * n)
  ).
  
  eapply le_trans.
  eapply IHqueries_at_most.
  intuition.
  simpl.
  repeat simp_in_support.
  destruct x.
  simpl in *.
  eapply H1.
  eauto.
  eauto.
  eauto.
  simpl.
  rewrite mult_assoc.
  intuition.

  (* trans case *)
  eapply le_trans.
  eapply IHqueries_at_most.
  eauto.
  eauto.
  eapply plus_le_compat; intuition.
  eapply mult_le_compat; intuition.

  Unshelve.
  repeat econstructor.
  eauto.

Qed.

Local Open Scope rat_scope.

Theorem evalDist_bind_event_le : 
  forall (A : Set)(c : Comp A)(f : A -> Comp bool)(evta : A -> bool) (k1 k2 : Rat),
    Pr[a <-$ c; ret (evta a)] <= k1 ->
    (forall a, In a (getSupport c) -> evta a = false -> Pr[f a] <= k2) ->
    Pr[a <-$ c; f a] <= k1 + k2.

  intuition.
  simpl in *.
  rewrite (sumList_partition evta).

  eapply ratAdd_leRat_compat.
  assert ( sumList (getSupport c)
     (fun a : A => evalDist c a * Pr  [f a ] * (if evta a then 1 else 0)) <=
            sumList (getSupport c)
        (fun b : A =>
         evalDist c b * (if EqDec_dec bool_EqDec (evta b) true then 1 else 0)) ).

  eapply sumList_le; intuition.
  destruct (EqDec_dec bool_EqDec (evta a) true ).
  rewrite e.

  eapply ratMult_leRat_compat; intuition.
  eapply leRat_trans.
  eapply ratMult_leRat_compat.
  eapply leRat_refl.
  eapply evalDist_le_1.
  rewrite ratMult_1_r.
  intuition.

  destruct (evta a); intuition.
  repeat rewrite ratMult_0_r.
  eapply rat0_le_all.
  rewrite H1.
  eapply H.

  assert ( sumList (getSupport c)
     (fun a : A => evalDist c a * Pr  [f a ] * (if evta a then 0 else 1)) <=
            sumList (getSupport c)
     (fun a : A => k2 * (evalDist c a * (if evta a then 0 else 1)))).

  eapply sumList_le.
  intuition.
  case_eq (evta a); intuition.
  eapply eqRat_impl_leRat.
  repeat rewrite ratMult_0_r.
  intuition.
  rewrite H0.
  eapply eqRat_impl_leRat.
  repeat rewrite ratMult_1_r.
  eapply ratMult_comm.
  trivial.
  trivial.

  rewrite H1.
  rewrite sumList_factor_constant_l.

  eapply leRat_trans.
  2:{
    eapply eqRat_impl_leRat.
    eapply ratMult_1_r.
  }
  eapply ratMult_leRat_compat; intuition.
  
  
  assert (sumList (getSupport c)
     (fun a : A => evalDist c a * (if evta a then 0 else 1)) <=
          sumList (getSupport c)
     (fun a : A => evalDist c a)).

  eapply sumList_le.
  intuition.
  eapply leRat_trans.
  2:{
    eapply eqRat_impl_leRat.
    eapply ratMult_1_r.
  }
  eapply ratMult_leRat_compat; intuition.
  destruct (evta a); intuition.
  eapply rat0_le_all.
  rewrite H2.
  eapply evalDist_sum_le_1.
Qed.

Theorem oc_eventProb : 
  forall (A B C : Set)(c : OracleComp A B C) n,
    queries_at_most c n ->
    forall
    (S : Set)(eqds : EqDec S)(o : S -> A -> Comp (B * S))
    (count : S -> nat)(evt : S -> bool)(s : S)(k : nat -> Rat) i,
      (forall (n1 n2 : nat), (n1 <= n2)%nat -> (k n1 <= k n2)) ->
      evt s = false ->
      (forall s a, evt s = false -> Pr[p <-$ o s a; ret (evt (snd p))] <= (k (i + (count s))%nat)) ->
      (forall s s' a b, In (b, s') (getSupport (o s a)) ->
                        count s' <= i + (count s))%nat ->
      Pr[p <-$ c _ _ o s; ret (evt (snd p))] <= (n / 1) * (k (i * n + (count s))%nat).

  Local Opaque evalDist.

  induction 1; intuition; simpl in *.
  inline_first.

  assert (
       Pr 
   [a <-$ c S eqds o s;
    p <-$ ([z, s']<-2 a; (f z) S eqds o s'); ret evt (snd p) ] <=
   q1 / 1 * k (i * q1 + count s)%nat + 
   q2 / 1 * k (i * q2 + (i * q1 + count s))%nat 
                     ).

  eapply evalDist_bind_event_le.
  eapply (@IHqueries_at_most _ _ _ count evt); intuition.
  intros.
  comp_simp.
  eapply leRat_trans.
  eapply (@H1 _ _ _ _ _ count evt).
  eapply H2.
  trivial.
  intuition.
  intuition.
  eapply ratMult_leRat_compat; intuition.
  eapply H2.
  eapply plus_le_compat; intuition.

  eapply le_trans.
  eapply (qam_count_gen _ _ _ _ _ i).
  intuition.
  eapply H5.
  eauto.
  eauto.
  rewrite mult_comm.
  intuition.

  rewrite H6.
  clear H6.
  
  eapply leRat_trans.
  2:{
    eapply eqRat_impl_leRat.
    symmetry.
    rewrite ratAdd_num.
    eapply ratMult_distrib_r.
  }
  eapply ratAdd_leRat_compat;
  eapply ratMult_leRat_compat.
  1, 3: reflexivity.
  intuition.
  eapply H2.
  rewrite mult_plus_distr_l.
  rewrite plus_comm.
  repeat rewrite <- plus_assoc.
  eapply plus_le_compat; intuition.

  rewrite H1; intuition.
  rewrite <- ratMult_1_l.
  eapply ratMult_leRat_compat; intuition.
  eapply leRat_terms; intuition.

  inline_first.
  eapply distro_irr_le.
  intuition.
  comp_simp.
  simpl.
  rewrite H0.
  rewrite evalDist_ret_0.
  eapply rat0_le_all.
  congruence.

  inline_first.

  assert (EqDec C).
  eapply oc_EqDec; intros.
  eapply c.
  assert (B * S).
  eapply oc_base_exists.
  eapply oc.
  trivial.
  trivial.
  intuition.
  assert (B' * S0).
  eapply comp_base_exists.
  eapply o.
  trivial.
  trivial.
  intuition.
  intuition.
  trivial.


  assert
    (
      (evalDist
        (Bind
           (c (prod S S0) (pair_EqDec eqds eqds0)
              (fun (x : prod S S0) (y : A) =>
               Bind ((oc (fst x) y) S0 eqds0 o (snd x))
                 (fun p : prod (prod B S) S0 =>
                  Ret (EqDec_dec (pair_EqDec eqdb (pair_EqDec eqds eqds0)))
                    (pair (fst (fst p)) (pair (snd (fst p)) (snd p)))))
              (pair s s0))
           (fun a : prod C (prod S S0) =>
            Bind
              (Ret
                 (EqDec_dec
                    (pair_EqDec
                       (pair_EqDec
                          (oc_EqDec c
                             (fun x : A =>
                              fst
                                (oc_base_exists (oc s x)
                                   (fun y : A' =>
                                    fst (comp_base_exists (o s0 y)))))
                             (fun x : A =>
                              EqDec_pair_l
                                (oc_EqDec (oc s x)
                                   (fun y : A' =>
                                    fst (comp_base_exists (o s0 y)))
                                   (fun y : A' =>
                                    EqDec_pair_l (comp_EqDec (o s0 y)) s0)) s))
                          eqds) eqds0))
                 (pair (pair (fst a) (fst (snd a))) (snd (snd a))))
              (fun p : prod (prod C S) S0 =>
               Ret (EqDec_dec bool_EqDec) (evt (snd p))))) true)
   ==
   Pr 
   [a <-$
    c (S * S0)%type (pair_EqDec eqds eqds0)
      (fun (x : S * S0) (y : A) =>
       p <-$ (oc (fst x) y) S0 eqds0 o (snd x);
       ret (fst (fst p), (snd (fst p), snd p))) (s, s0);
     ret (evt (snd (snd a))) ]
   ).

  comp_skip.
  simpl.
  intuition.
  rewrite H7.
  clear H7.

  
  eapply leRat_trans.
  eapply (@IHqueries_at_most _ _ 
                             ((fun (x : S * S0) (y : A) =>
       p <-$ (oc (fst x) y) S0 eqds0 o (snd x);
       ret (fst (fst p), (snd (fst p), snd p))))
                             (fun p => count (snd p)) (fun p => evt (snd p))
         _ (fun x => q2 / 1 * k (x)%nat) (i * q2)%nat).
  intuition.
  eapply ratMult_leRat_compat; intuition.
  trivial.
  intuition.
  
  comp_inline_l.
  assert (
      Pr 
   [a1 <-$ (oc (fst (a, b)) a0) S0 eqds0 o (snd (a, b));
    p <-$ ret (fst (fst a1), (snd (fst a1), snd a1)); ret evt (snd (snd p)) ]
   ==
   Pr 
   [a1 <-$ (oc (fst (a, b)) a0) S0 eqds0 o (snd (a, b));
    ret evt (snd a1) ]
   ).


  comp_skip.
  simpl.
  intuition.
  rewrite H8.
  clear H8.
  simpl.
  eapply leRat_trans.

  eapply (@H1 ); intuition.
  reflexivity.
  intuition.
  repeat simp_in_support.
  destruct x.
  simpl in *.
  rewrite mult_comm.
  eapply qam_count_gen.
  eapply H0.
  intuition.
  eapply H5.
  eapply H7.
  eapply H8.
  simpl.
  rewrite <- ratMult_assoc.
  eapply ratMult_leRat_compat.
  eapply eqRat_impl_leRat.
  rewrite <- ratMult_num_den.
  eapply eqRat_terms; intuition.
  eapply H2.
  eapply plus_le_compat. 2: reflexivity.
  rewrite <- mult_assoc.
  eapply mult_le_compat. reflexivity.
  rewrite mult_comm.
  reflexivity.

  rewrite IHqueries_at_most.
  eapply ratMult_leRat_compat; intuition.
  eapply leRat_terms; intuition.
  intuition.
  trivial.
  intuition.
  intuition.

  Unshelve.
  repeat econstructor; eauto.
  trivial.

Qed.
```
```

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 1]
```diff
@@ -0,0 +1,7 @@
+- **Deprecated:**
+  Some obsolete files from the ``Arith`` part of the standard library are now explicitely deprecated (``Div2``, ``Even``, ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
```
Comment (Alizter) [inline doc/changelog/10-standard-library/14736-Arith2.rst:2]:
```suggestion
  some obsolete files from the ``Arith`` part of the standard library (``Div2``, ``Even``, ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
```

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 2]
```diff
@@ -0,0 +1,7 @@
...
+  A temporary file ``Arith_prebase`` is introduced to ensure compatibility but should not be imported directly (it will disappear at the end of the deprecation phase).
```
Comment (Alizter) [inline doc/changelog/10-standard-library/14736-Arith2.rst:3]:
```suggestion
  A temporary file ``Arith_prebase`` has been introduced to ensure compatibility but should not be imported directly (it will disappear at the end of the deprecation phase).
```

Comment (Alizter) [reply doc/changelog/10-standard-library/14736-Arith2.rst:3]: What do you mean by "should not be imported directly"? Perhaps it might be better to say something like:
```suggestion
  A temporary file ``Arith_prebase`` has been introduced to ensure compatibility. Usage is discouraged since it will disappear at the end of the deprecation phase.
```

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 3]
```diff
@@ -0,0 +1,7 @@
...
+  All ``Hint`` declarations in the ``arith`` database are moved to files ``Arith_prebase`` and ``Arith_base``.
+  In order to use the results about Peano arithmetic provided by the standard library, it is recommended to import ``PeanoNat`` (or ``Arith_base`` to take benefits from the ``arith`` hint database) and to use the ``Nat`` module
+  (`#14736 <https://github.com/coq/coq/pull/14736>`_,
+  by Olivier Laurent).
```
Comment (Alizter) [inline doc/changelog/10-standard-library/14736-Arith2.rst:7]:
```suggestion
  All ``Hint`` declarations in the ``arith`` database have been moved to files ``Arith_prebase`` and ``Arith_base``.
  In order to use the results about Peano arithmetic provided by the standard library, we recommend the import of ``PeanoNat`` (or ``Arith_base`` to build on top of the ``arith`` hint database) and to use the ``Nat`` module
  (`#14736 <https://github.com/coq/coq/pull/14736>`_,
  by Olivier Laurent).
```

**Review by Alizter — COMMENTED** [review]
Some wording suggestions, perhaps @jfehrle can give some feedback too.

File: doc/changelog/10-standard-library/14736-Arith2.rst (hunk 2 above)
Comment (jfehrle) [reply doc/changelog/10-standard-library/14736-Arith2.rst:3]: Maybe this?

```suggestion
  ``Arith_prebase`` has been introduced temporarily to ensure compatibility, but it will be removed at the end of the 
  deprecation phase, e.g. in 8.16.
```

Would you add a description of the actions users need to take as a result of this PR?   Seems like it's replace references to the deprecated files with (exactly what?).  And don't use Arith_prebase.  It's a bit odd to draw attention to `Arith_prebase` when we don't want users to import it directly.

Comment (jfehrle) [reply doc/changelog/10-standard-library/14736-Arith2.rst:3]: BTW "explicitely" should be "explicitly"

File: doc/changelog/10-standard-library/14736-Arith2.rst (hunk 3 above)
Comment (jfehrle) [reply doc/changelog/10-standard-library/14736-Arith2.rst:7]: How about:

```suggestion
  All ``Hint`` declarations in the ``arith`` database have been moved to ``Arith_prebase`` and
  ``Arith_base``.  To use the results about Peano arithmetic, we recommend importing
  ``PeanoNat`` (or ``Arith_base`` to base it on the ``arith`` hint database) and using the ``Nat`` module
  (`#14736 <https://github.com/coq/coq/pull/14736>`_,
  by Olivier Laurent).
```

File: doc/changelog/10-standard-library/14736-Arith2.rst (hunk 2 above)
Comment (olaure01) [reply doc/changelog/10-standard-library/14736-Arith2.rst]: I have tried to give a description of what should be done to avoid deprecation warnings.
Shouldn't the end of deprecation phase be deprecation + 2? thus 8.17 if introduction in 8.15?
Anyway @Alizter and @jfehrle, thanks for your suggestions.

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 4]
```diff
@@ -0,0 +1,12 @@
+- **Deprecated:**
+  some obsolete files from the ``Arith`` part of the standard library (``Div2``, ``Even``, ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
+  ``Arith_prebase`` has been introduced temporarily to ensure compatibility, but it will be removed at the end of the
+  deprecation phase, e.g. in 8.17. Usage is thus discouraged.
+  All ``Hint`` declarations in the ``arith`` database have been moved to ``Arith_prebase`` and
+  ``Arith_base``.  To use the results about Peano arithmetic, we recommend importing
+  ``PeanoNat`` (or ``Arith_base`` to base it on the ``arith`` hint database) and using the ``Nat`` module.
+  To avoid deprecation warnings, ``Arith_base`` should be used in replacement of the deprecated files,
+  and calls to the statements from deprecated files should be replaced by the corresponding statements in ``PeanoNat.Nat``
+  suggested by the warning messages.
```
Comment (jfehrle) [inline doc/changelog/10-standard-library/14736-Arith2.rst:10]: That's better.  How about this if I've not changed the meaning?

(Also I moved what you **_should_** do before what you **_shouldn't_** do)

```suggestion
  Import ``Arith_base`` instead of these files.  References to items in the deprecated files should be replaced
  with references to `PeanoNat` as suggested by the warning messages.
  All ``Hint`` declarations in the ``arith`` database have been moved to ``Arith_prebase`` and
  ``Arith_base``.  To use the results about Peano arithmetic, we recommend importing
  ``PeanoNat`` (or ``Arith_base`` to base it on the ``arith`` hint database) and using the ``Nat`` module.
  ``Arith_prebase`` has been introduced temporarily to ensure compatibility, but it will be removed at the end of the
  deprecation phase, e.g. in 8.17.  Its use is thus discouraged.```

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 5]
```diff
@@ -0,0 +1,11 @@
+- **Deprecated:**
+  some obsolete files from the ``Arith`` part of the standard library (``Div2``, ``Even``, ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
+  Import ``Arith_base`` instead of these files.  References to items in the deprecated files should be replaced
+  with references to `PeanoNat` as suggested by the warning messages.
```
Comment (olaure01) [inline doc/changelog/10-standard-library/14736-Arith2.rst:4]:
```suggestion
  with references to ``PeanoNat.Nat`` as suggested by the warning messages.
```

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 6]
```diff
@@ -0,0 +1,11 @@
+- **Deprecated:**
+  some obsolete files from the ``Arith`` part of the standard library (``Div2``, ``Even``, ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
+  Import ``Arith_base`` instead of these files.  References to items in the deprecated files should be replaced
+  with references to ``PeanoNat.Nat`` as suggested by the warning messages.
+  All ``Hint`` declarations in the ``arith`` database have been moved to ``Arith_prebase`` and
+  ``Arith_base``.  To use the results about Peano arithmetic, we recommend importing
+  ``PeanoNat`` (or ``Arith_base`` to base it on the ``arith`` hint database) and using the ``Nat`` module.
+  ``Arith_prebase`` has been introduced temporarily to ensure compatibility, but it will be removed at the end of the
+  deprecation phase, e.g. in 8.17.  Its use is thus discouraged.```
```
Comment (jfehrle) [inline doc/changelog/10-standard-library/14736-Arith2.rst:9]:
```suggestion
  deprecation phase, e.g. in 8.17.  Its use is thus discouraged.
```

File: doc/changelog/10-standard-library/14736-Arith2.rst [hunk 7]
```diff
@@ -0,0 +1,11 @@
+- **Deprecated:**
+  some obsolete files from the ``Arith`` part of the standard library (``Div2``, ``Even``, ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
```
Comment (jfehrle) [inline doc/changelog/10-standard-library/14736-Arith2.rst:2]:
```suggestion
  some obsolete files from the ``Arith`` part of the standard library (``Div2``, ``Even``,
  ``Gt``, ``Le``, ``Lt``, ``Max``, ``Min``, ``Minus``, ``Mult``, ``NPeano``, ``Plus``).
```

**Review by jfehrle — COMMENTED** [review]
Looks good to me.  2 last tweaks.

File: doc/changelog/10-standard-library/14736-Arith2.rst (hunk 2 above)
Comment (Alizter) [reply doc/changelog/10-standard-library/14736-Arith2.rst]: I think it's more likely that this PR will get into 8.16 so the EOF should be 8.18.

**Comment by Alizter** [comment]
@SkySkimmer Am I correct in thinking that this is probably too big for inclusion in 8.15?

**Comment by SkySkimmer** [comment]
This should be OK for 8.15. Not much point in delaying deprecation.

**Review by Alizter — APPROVED** [review]

**Comment by Alizter** [comment]
@olaure01 I'm happy to merge once we can get an overlay for cross_crypto going. Also could you squash those last commits?

**Comment by SkySkimmer** [comment]
If there are overlays then definitely not in 8.15 though

**Comment by olaure01** [comment]
@Alizter @SkySkimmer 
Everything is ready on my side. Last overlay has been integrated successfully in adampetcher/fcf#37 , I am waiting for the corresponding update in mit-plv/cross-crypto#25 (there is no specific code modification for cross-crypto but fcf is a sub-module).
I will squash (and update version references "deprecation at n" + "end of deprecation at n+2" if necessary) as soon as it gets incorporated.

**Comment by Alizter** [comment]
What do you think @SkySkimmer? I believe that overlay will make it for 8.15.

**Comment by SkySkimmer** [comment]
No, having to deal with overlays is more bother than it's worth.

**Comment by Alizter** [comment]
@SkySkimmer I'm keeping the 8.15 milestone since all the overlays have been merged. I will merge tomorrow.

File: theories/Arith/EqNat.v [hunk 8]
```diff
@@ -73,34 +68,35 @@ Defined.
...
+#[local]
+Definition beq_nat_true_stt := fun n m => proj1 (Nat.eqb_eq n m).
+Opaque beq_nat_true_stt.
+#[deprecated(since="8.15",note="Use Nat.eqb_eq instead.")]
+Notation beq_nat_true := beq_nat_true_stt.
+
+#[local]
+Definition beq_nat_false_stt := fun n m => proj1 (Nat.eqb_neq n m).
+Opaque beq_nat_false_stt.
+#[deprecated(since="8.15",note="Use Nat.eqb_neq instead.")]
```
Comment (SkySkimmer) [inline theories/Arith/EqNat.v:94]: This isn't going in 8.15 so all these warnings need to be updated.

**Review by SkySkimmer — DISMISSED** [review]

File: theories/Arith/EqNat.v (hunk 8 above)
Comment (Alizter) [reply theories/Arith/EqNat.v:94]: Now I'm confused, why not?

Comment (SkySkimmer) [reply theories/Arith/EqNat.v:94]: PRs with overlays should be merged before the branch or have a compelling reason for exception.
Deprecating some stuff is not compelling imo.

Comment (Alizter) [reply theories/Arith/EqNat.v:94]: Right but the overlays have all been merged now.

Comment (SkySkimmer) [reply theories/Arith/EqNat.v:94]: after the branch, which is what matters

Comment (Alizter) [reply theories/Arith/EqNat.v:94]: Oh sorry my bad, I missed that you branched recently. I was confusing it with the feature freeze.

**Review by Alizter — APPROVED** [review]

**Comment by Alizter** [comment]
will merge tomorrow (if ci is green)

**Comment by Alizter** [comment]
@coqbot merge now

**Comment by Alizter** [comment]
@coqbot merge now
